US09126945B2
Ethyl 3-(1-fluorocyclopropyl)-1-methyl-1H-pyrazole-5-carboxylate is prepared from 1-(1-fluorocyclopropyl)ethanone analogously to the process described in the synthesis of ethyl 3-(1-chlorocyclopropyl)-1-methyl-1H-pyrazole-5-carboxylate.

reactant | 1-(1-fluorocyclopropyl)ethanone | FC1(CC1)C(C)=O | C5H7FO
reactant | ethyl 3-(1-chlorocyclopropyl)-1-methyl-1H-pyrazole-5-carboxylate | ClC1(CC1)C1=NN(C(=C1)C(=O)OCC)C | C10H13ClN2O2
product | Ethyl 3-(1-fluorocyclopropyl)-1-methyl-1H-pyrazole-5-carboxylate | FC1(CC1)C1=NN(C(=C1)C(=O)OCC)C | C10H13FN2O2
